US05026856
1.0 g of 2-(p-toluenesulfonyl)-5-chloroisoindoline and 1.0 g of phenol were added to a mixture of 8 ml of 48% hydrobromic acid and 1.4 ml of propionic acid, and the mixture was refluxed for 6 hours. The resultant reaction mixture was diluted with 10 ml of water and extracted 2 times with 50 ml of ether. The water layer was basified with aqueous sodium hydroxide solution and extracted with 50 ml of ether 4 times. The extract was concentrated and the residue was purified by vacuum distillation (bath temperature: 130°-140 ° C., pressure: 7 mmHg) to obtain 256 mg of 5-chloroisoindoline.

reactant | 2-(p-toluenesulfonyl)-5-chloroisoindoline | 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)N1CC2=CC=C(C=C2C1)Cl)C | C15H14ClNO2S
reactant | phenol | 1.0 g | C1(=CC=CC=C1)O | C6H6O
reactant | hydrobromic acid | 8 ml | Br | BrH
reactant | propionic acid | 1.4 ml | C(CC)(=O)O | C3H6O2
solvent | water | 10 ml | O | H2O
product | 5-chloroisoindoline | 256 mg | ClC=1C=C2CNCC2=CC1 | C8H8ClN
